US08476267B2
1-[4-Amino-2-(methylsulfonyl)-1,3-thiazol-5-yl]ethanone
2.775 g (4.52 mmol) of Oxone® were dissolved in 9 ml of water, and 500 mg (2.66 mmol) of 1-[4-amino-2-(methylsulfanyl)-1,3-thiazol-5-yl]ethanone, dissolved in 9 ml of methanol, were added dropwise at 5° C. The mixture was stirred at RT for 3 h, the methanol was reduced on a rotary evaporator and the residue was extracted twice with dichloromethane. Removal of the solvent gave 395 mg (52% of theory) of the product as a solid.

reactant | Oxone | 4.52 mmol, 2.775 g | OOS(=O)[O-].[K+]
reactant | 1-[4-amino-2-(methylsulfanyl)-1,3-thiazol-5-yl]ethanone | 2.66 mmol, 500 mg | NC=1N=C(SC1C(C)=O)SC | C6H8N2OS2
reactant | methanol | 9 ml | CO | CH4O
solvent | water | 9 ml | O | H2O
product | 1-[4-Amino-2-(methylsulfonyl)-1,3-thiazol-5-yl]ethanone | NC=1N=C(SC1C(C)=O)S(=O)(=O)C | C6H8N2O3S2
